US07989394B2
(4,5-Dihydro-thiazol-2-yl)-[2-(3,5-dimethyl-phenyl)-1-furan-2-yl-ethyl]-amine
Following the procedure as described in example a solution of 1-[2-(3,5-dimethylphenyl)-1-furan-2-yl-ethyl]-3-(2-hydroxy-ethyl)-thiourea (0.46 g) and diisopropyethylamine (0.26 g) in propionitrile (20 ml) was treated with cyanomethyl trimethylphosphonium iodide (0.44 g) and heated for 16 h at a temperature of 90° C. Work-up yielded the title compound (0.30 g, 69%) as an amorphous solid.

reactant | 1-[2-(3,5-dimethylphenyl)-1-furan-2-yl-ethyl]-3-(2-hydroxy-ethyl)-thiourea | 0.46 g | CC=1C=C(C=C(C1)C)CC(C=1OC=CC1)NC(=S)NCCO | C17H22N2O2S
reactant | diisopropyethylamine | 0.26 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyanomethyl trimethylphosphonium iodide | 0.44 g | [I-].C(#N)C[P+](C)(C)C
solvent | propionitrile | 20 ml | C(CC)#N | C3H5N
product | (4,5-Dihydro-thiazol-2-yl)-[2-(3,5-dimethyl-phenyl)-1-furan-2-yl-ethyl]-amine | 0.30 g, 69% | S1C(=NCC1)NC(CC1=CC(=CC(=C1)C)C)C=1OC=CC1 | C17H20N2OS
